US05039333
Preparation of Methyl 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(bromomethyl)nicotinate
Solid N-bromosuccinimide (22.98 g, 0.129 mol) and benzoyl peroxide (3.12 g, 0.0129 mol) are added to a 25° C. solution of 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid, methyl ester (46.2 g, 0.117 mol) in carbon tetrachloride. The reaction mixture is heated at 70° C. for 16 hours, cooled to room temperature, diluted with methylene chloride, washed sequentially with 5% sodium metabisulfite solution and water, dried over anhydrous magnesium sulfate and concentrated in vacuo to give an oil. The oil is chromatographed using silica gel and hexanes/ethyl acetate (3:1) to (1:1) as eluant to give the title compound as a yellow solid (19.64 g, 35%), mp 88°-119° C., identified by IR and NMR spectral analyses.

reactant | N-bromosuccinimide | 0.129 mol, 22.98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.0129 mol, 3.12 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid, methyl ester | 0.117 mol, 46.2 g | C(C1=CC=CC=C1)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=C(C=N1)C | C22H23N3O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(bromomethyl)nicotinate | 19.64 g, 35% | C(C1=CC=CC=C1)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=C(C=N1)CBr | C22H22BrN3O4
